US05013841
A mixture of 5-benzylamino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 1-acetyl-2-methylpiperazine and pyridine was heated under reflux. The reaction mixture was concentrated under reduced pressure, and water was added to the residue. The mixture was extracted with chloroform. The extract was dried and chloroform was evaporated. Ethanol was added to the residue, and the crystals were collected by filtration to give 7-(4-acetyl-3-methyl-1-piperazinyl)-5-benzylamino-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. It was recrystallized from ethanol/diisopropyl ether. m.p. 235°-236° C.

reactant | 5-benzylamino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C1=CC=CC=C1)NC1=C2C(C(=CN(C2=CC(=C1F)F)C1CC1)C(=O)O)=O | C20H16F2N2O3
reactant | 1-acetyl-2-methylpiperazine | C(C)(=O)N1C(CNCC1)C | C7H14N2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7-(4-acetyl-3-methyl-1-piperazinyl)-5-benzylamino-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C(C)(=O)N1C(CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)NCC1=CC=CC=C1)F)C | C27H29FN4O4
